US08664228B2
Step 4: [1-Carbamoyl-4-(4-methoxy-phenyl)-butyl]-carbamic acid tert-butyl ester
A solution of 2-tert-butoxycarbonylamino-5-(4-methoxy-phenyl)-pentanoic acid methyl ester (5.6 g, 16.6 mmol) in MeOH (100 mL) is treated with aqueous ammonia solution (100 mL of a 28% solution in water, 28 mmol) and stirred at RT overnight. The organic solvent is removed in vacuo and the remaining aqueous portion is extracted with EtOAc (×3). The combined organic extracts are washed with brine and then dried (MgSO4) and concentrated in vacuo to afford the title compound as a yellow oil.

reactant | 2-tert-butoxycarbonylamino-5-(4-methoxy-phenyl)-pentanoic acid methyl ester | 16.6 mmol, 5.6 g | COC(C(CCCC1=CC=C(C=C1)OC)NC(=O)OC(C)(C)C)=O | C18H27NO5
reactant | ammonia | N | H3N
solvent | MeOH | 100 mL | CO | CH4O
solvent | water | O | H2O
product | [1-Carbamoyl-4-(4-methoxy-phenyl)-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CCCC1=CC=C(C=C1)OC)C(N)=O)=O | C17H26N2O4
